US08389513B2
2-Fluoromethyl-oxazole-4-carboxylic acid [3-((R)-2-amino-5,5-difluoro-4-methyl-5,6-dihydro-4H-[1,3]oxazin-4-yl)-4-fluoro-phenyl]-amide formate
The condensation of (R)-4-(5-amino-2-fluoro-phenyl)-5,5-difluoro-4-methyl-5,6-dihydro-4H-[1,3]oxazin-2-ylamine (intermediate XI-1) and 2-fluoromethyl-oxazole-4-carboxylic acid following procedure I yielded the title compound after purification by preparative HPLC as a white solid. MS (ISP): m/z=387.1 [M+H]+.

reactant | (R)-4-(5-amino-2-fluoro-phenyl)-5,5-difluoro-4-methyl-5,6-dihydro-4H-[1,3]oxazin-2-ylamine | NC=1C=CC(=C(C1)[C@]1(N=C(OCC1(F)F)N)C)F | C11H12F3N3O
reactant | 2-fluoromethyl-oxazole-4-carboxylic acid | FCC=1OC=C(N1)C(=O)O | C5H4FNO3
product | 2-Fluoromethyl-oxazole-4-carboxylic acid [3-((R)-2-amino-5,5-difluoro-4-methyl-5,6-dihydro-4H-[1,3]oxazin-4-yl)-4-fluoro-phenyl]-amide formate | C(=O)O.NC=1OCC([C@@](N1)(C)C=1C=C(C=CC1F)NC(=O)C=1N=C(OC1)CF)(F)F | InChI=1S/C16H14F4N4O3.CH2O2/c1-15(16(19,20)7-27-14(21)24-15)9-4-8(2-3-10(9)18)22-13(25)11-6-26-12(5-17)23-11;2-1-3/h2-4,6H,5,7H2,1H3,(H2,21,24)(H,22,25);1H,(H,2,3)/t15-;/m1./s1
